US05753652
a) N-(2-(2-Methoxyethoxy)-ethoxy)carbonyl-(L)-valine
19.8 ml (168 mmol) of diethylene glycol monomethyl ether are added dropwise at 0° to 100 ml of a 20% solution of phosgene in toluene and the mixture is stirred overnight at RT. Excess phosgene is expelled with nitrogen and the reaction solution is washed with water and concentrated by evaporation. Analogously to Example 1c, 10 g (85.4 mmol) of (L)-valine are added to the crude 2-(2-methoxyethoxy)ethylchloroformate (15.6 g, 85.4 mmol) yielding the title compound in the form of a colourless resin. 1H-NMR (200 MHz, CD3OD): 4.18 (m, 2H), 4.05 d, J=6 Hz, 1H), 3.72-3.40 (m, 8H), 3.35 (s, 3H), 2.18 (m, 1H), 0.95 (t, J=7H, 6H).

reactant | diethylene glycol monomethyl ether | 168 mmol, 19.8 ml | COCCOCCO | C5H12O3
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | (L)-valine | 85.4 mmol, 10 g | N[C@@H](C(C)C)C(=O)O | C5H11NO2
reactant | 2-(2-methoxyethoxy)ethylchloroformate | 85.4 mmol, 15.6 g | COCCOCCOC(=O)Cl | C6H11ClO4
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | N-(2-(2-Methoxyethoxy)-ethoxy)carbonyl-(L)-valine | COCCOCCOC(=O)N[C@@H](C(C)C)C(=O)O | C11H21NO6
